US07462611B2
a) 4-Cyano-1H-pyrrole-2-carboxylic acid methyl ester
4-Cyano-1H-pyrrole-2-carboxylic acid methyl ester was prepared as described in Can. J. Chem., 59, 2673-76 (1981). 1H-Pyrrole-2-carboxylic acid methyl ester (2.00 g, 16.00 mmol) was dissolved in acetonitrile (5 mL) and the solution was cooled to −20° C. Chlorosulfonylisocyanate (3.40 g, 24.00 mmol) was dissolved in acetonitrile (5 mL) and added dropwise via syringe over a period of 5 min to the above solution. The solution was allowed to warm to 25° C. and was stirred for 20 h. The solution was cooled back to 0° C., N,N-dimethylformamide (2 mL) was added and the solution was heated to 50° C. for 15 min. The reaction mixture was poured into ice and was extracted with chloroform, washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated in vacuo. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm, 40% ethyl acetate in hexanes) afforded the desired product, 4-cyano-1H-pyrrole-2-carboxylic acid methyl ester (1.09 g, 7.265 mmol, 45.4% yield) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ: 3.91 (3H, s), 7.12 (1H, t, J=2.0 Hz), 7.40-7.41 (1H, m), 9.60 (1H, bs). FT-IR (ATR) νmax (neat): 2228, 1691 cm−1.

reactant | 1H-Pyrrole-2-carboxylic acid methyl ester | 16.00 mmol, 2.00 g | COC(=O)C=1NC=CC1 | C6H7NO2
reactant | Chlorosulfonylisocyanate | 24.00 mmol, 3.40 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-cyano-1H-pyrrole-2-carboxylic acid methyl ester | 7.265 mmol, 1.09 g, 45.4% yield | COC(=O)C=1NC=C(C1)C#N | C7H6N2O2
